US07425628B2
25 g of wet levofloxacin crude (about 22.17 g or dry levofloxacin) was put in suspension in 225 mL of mixture ACN:H2O (99:1) under nitrogen atmosphere. The mixture was heated to reflux during 1 hour and then filtrated under vacuum with Hyflow when still hot. Then the solution was heated again to reflux and cooled to 0° C. over a period of 1 hour. The precipitate was filtrated under vacuum, washed with ACN:H2O (2×12 mL) and dried in a vacuum oven to give 18.6 g (84%) of purified levofloxacin hemihydrate. The purified levofloxacin hemihydrate contained approximately one-third less desmethyl levofloxacin than in the crude sample.

reactant | levofloxacin | 25 g | C[C@H]1COC2=C3C(=CC(=C2N4CCN(CC4)C)F)C(=O)C(=CN31)C(=O)O | C18H20FN3O4
solvent | ACN H2O | C(C)#N.O
product | levofloxacin hemihydrate | 18.6 g, 84% | C[C@H]1COC2=C3N1C=C(C(=O)C3=CC(=C2N4CCN(CC4)C)F)C(=O)O.C[C@H]1COC2=C3N1C=C(C(=O)C3=CC(=C2N4CCN(CC4)C)F)C(=O)O.O | InChI=1S/2C18H20FN3O4.H2O/c2*1-10-9-26-17-14-11(16(23)12(18(24)25)8-22(10)14)7-13(19)15(17)21-5-3-20(2)4-6-21;/h2*7-8,10H,3-6,9H2,1-2H3,(H,24,25);1H2/t2*10-;/m00./s1
